US08022062B2
Use a method similar to the General Procedure 5-1 to react 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (3 g, 7.06 mmol), palladium(II) acetate (0.16 g, 0.71 mmol), BINAP (0.88 g, 1.41 mmol), 2,4-difluorobenzylamine (3.03 g, 21.18 mmol) and cesium carbonate (3.22 g, 9.88 mmol) in degassed toluene (120 mL). Degas the mixture with vacuum/nitrogen purge and heat to 100° C. for 16 h. Cool the mixture to room temperature, dilute with EtOAc, filter through Celite® and concentrate in vacuo to give a brown oil. Purify the crude mixture by chromatography on silica gel eluting with hexane and then hexane/THF (95:5) to obtain 7-chloro-6-(2,4-difluorobenzylamino)-3-(2,2,2,trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as oil (2.25 g, 76%). MS (ES+) m/z: 419 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 7.06 mmol, 3 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | BINAP | 1.41 mmol, 0.88 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 2,4-difluorobenzylamine | 21.18 mmol, 3.03 g | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | cesium carbonate | 9.88 mmol, 3.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.71 mmol, 0.16 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-chloro-6-(2,4-difluorobenzylamino)-3-(2,2,2,trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.25 g, 76% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=C(C=C(C=C1)F)F | C19H16ClF5N2O
